US05278170
(±) cis-2-Benzyl-hexahydropyrano[3,4-c]pyrrole-4(1H)-one (D20)
To a stirred solution of 5,6-dihydro-2H-pyran-2-one* (136 g, 1.39 mole) in dichloromethane (2 L) at -20° C. was added N-benzyl-N-(methoxymethyl)-N-trimethylsilylmethyl amine (80% pure) (D12, 450 g, 1.5 mole). To this solution was added trifluoroacetic acid in dichloromethane (140 ml, 1 molar solution) at -20° C. The reaction was then transferred at -20° C. under a small positive pressure of nitrogen via a double ended needle to a second flask on a water bath at 30° C. As the cold mixture warmed up an exothermic reaction occurred and the rate of addition was controlled to maintain gentle reflux. When addition was complete and the reaction had subsided the solution was allowed to stand at room temperature for 2 h. The reaction was then washed with saturated aqueous potassium carbonate solution, dried (Na2SO4) and concentrated in vacuo to a gum. Vacuum distillation afforded the title compound as a single main fraction b.p. 180°-190° C.0.5mmHg (D20, 180.9 g, 0.73 mole, 56%).

reactant | 5,6-dihydro-2H-pyran-2-one | O1C(C=CCC1)=O | C5H6O2
reactant | N-benzyl-N-(methoxymethyl)-N-trimethylsilylmethyl amine | 1.5 mole, 450 g | C(C1=CC=CC=C1)N(C[Si](C)(C)C)COC | C13H23NOSi
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 2 L | ClCCl | CH2Cl2
solvent | dichloromethane | 1 molar, 140 ml | ClCCl | CH2Cl2
product | (±) cis-2-Benzyl-hexahydropyrano[3,4-c]pyrrole-4(1H)-one | C(C1=CC=CC=C1)N1C[C@H]2[C@@H](C1)CCOC2=O | C14H17NO2
